US04208413
3,5-Diamino-6-chloro-N-[bis(ethoxycarbonylamino)methylene]-2-pyrazinecarboxamide
To a stirred suspension of N-amidino-3,5-diamino-6-chloro-2-pyrazinecarboxamide (27.6 g., 0.12 mole) in pyridine (300 ml.) is added ethyl chloroformate (12.0 ml., 0.15 mole) during a 5 minute period. The reaction is stirred at 25° for 2 hours during which time the starting material dissolves and the hydrochloride of the starting material precipitates. The latter is filtered from the reaction and discarded. The filtrate is treated with water (700 ml.) to give 16 g. (71%) of 3,5-diamino-6-chloro-N-[bis(ethoxycarbonylamino)methylene]-2-pyrazinecarboxamide which melts at 213° C. after recrystallization from ethanol.

reactant | N-amidino-3,5-diamino-6-chloro-2-pyrazinecarboxamide | 0.12 mole, 27.6 g | C(N)(=N)NC(=O)C1=NC(=C(N=C1N)N)Cl | C6H8ClN7O
reactant | ethyl chloroformate | 0.15 mole, 12.0 ml | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | 3,5-Diamino-6-chloro-N-[bis(ethoxycarbonylamino)methylene]-2-pyrazinecarboxamide | NC=1C(=NC(=C(N1)N)Cl)C(=O)N=C(NC(=O)OCC)NC(=O)OCC | C12H16ClN7O5
